US04863919
N-(1-Azabicyclo[2.2.2]oct-3-yl)-3-methoxybenzamide, Monohydrochloride.
In a closed system, a solution of 3-methoxybenzoyl chloride (7.18 g, 0.04206 mole) in 30 ml ether was added dropwise to a stirred solution of 3-aminoquinuclidine (5.30 g, 0.04206 mole) in 100 ml of ether. The reaction mixture was stirred at ambient temperature for 16 hr. The solid hydrochloride salt was collected under nitrogen and dried in vacuo at ambient temperature to give 11.12 g (87.1%) of the product. The material was recrystallized from absolute ethanol-isopropyl ether to give 7.69 g. The product was vacuum dried for 20 hr over refluxing ethanol, and then for 24 hr over refluxing isooctane; m.p. 214°-215° C.

reactant | 3-methoxybenzoyl chloride | 0.04206 mole, 7.18 g | COC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO2
reactant | 3-aminoquinuclidine | 0.04206 mole, 5.30 g | NC1CN2CCC1CC2 | C7H14N2
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | N-(1-Azabicyclo[2.2.2]oct-3-yl)-3-methoxybenzamide, Monohydrochloride | 11.12 g, 87.1% | Cl.N12CC(C(CC1)CC2)NC(C2=CC(=CC=C2)OC)=O | InChI=1S/C15H20N2O2.ClH/c1-19-13-4-2-3-12(9-13)15(18)16-14-10-17-7-5-11(14)6-8-17;/h2-4,9,11,14H,5-8,10H2,1H3,(H,16,18);1H
